US05559214
6-Cyano-4'-(4-methoxyphenyl)-2,2':6',2"-terpyridine is prepared by the method of example 27 from 6-bromo-4'-(4-methoxyphenyl)-2,2':6',2"-terpyridine (0.0745 mol), cuprous cyanide (0.296 mol), sodium cyanide (0.297 mol), and dimethylformamide (300 ml).

reactant | 6-bromo-4'-(4-methoxyphenyl)-2,2':6',2"-terpyridine | 0.0745 mol | BrC1=CC=CC(=N1)C1=NC(=CC(=C1)C1=CC=C(C=C1)OC)C1=NC=CC=C1 | C22H16BrN3O
reactant | sodium cyanide | 0.297 mol | [C-]#N.[Na+]
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | 6-Cyano-4'-(4-methoxyphenyl)-2,2':6',2"-terpyridine | C(#N)C1=CC=CC(=N1)C1=NC(=CC(=C1)C1=CC=C(C=C1)OC)C1=NC=CC=C1 | C23H16N4O
